US07888366B2
To a cooled (4° C.) and stirred solution of 2-bromo-4-chloroacetophenone (5.0 g, 21.41 mmol) and glacial acetic acid (2.8 mL, 49.25 mmol) in acetonitrile was added triethylamine (6.1 mL, 44.97 mmol). The reaction mixture was warmed to room temperature, than refluxed for 3 hours. The reaction mixture was extracted with ether, acetate, washed with 1N hydrochloric acid, brine, dried, and concentrated to yield 4.1 g of acetic acid 2-(4-chlorophenyl)-2-oxo-ethyl ester.

reactant | 2-bromo-4-chloroacetophenone | 21.41 mmol, 5.0 g | CC(=O)C1=C(C=C(C=C1)Cl)Br | C8H6BrClO
reactant | acetic acid | 49.25 mmol, 2.8 mL | C(C)(=O)O | C2H4O2
reactant | triethylamine | 44.97 mmol, 6.1 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | acetic acid 2-(4-chlorophenyl)-2-oxo-ethyl ester | 4.1 g | ClC1=CC=C(C=C1)C(COC(C)=O)=O | C10H9ClO3
